US05100900
Methyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(3-phenylquinolin-5-yl)-pyridine-5-carboxylate
0.9 g (8.75 of nitroacetone, 0.58 g (5 mmol) of methyl 3-aminocrotonate and 0.3 ml (5 mmol) of acetic acid are added to 1.17 g (5 mmol) of 3-phenylquinoline-5-aldehyde in 10 ml of ethanol and the mixture is boiled for 1 hour. It is cooled and concentrated. The evaporation residue is purified by means of a silica gel column using chloroform/methanol mixtures. The clean fractions are concentrated, and the evaporation residue is recrystallized from ethyl acetate. 0.6 g of orange-colored crystals of melting point 262° C. are obtained.

reactant | nitroacetone | [N+](=O)([O-])CC(C)=O | C3H5NO3
reactant | methyl 3-aminocrotonate | 5 mmol, 0.58 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | acetic acid | 5 mmol, 0.3 ml | C(C)(=O)O | C2H4O2
reactant | 3-phenylquinoline-5-aldehyde | 5 mmol, 1.17 g | C1(=CC=CC=C1)C=1C=NC=2C=CC=C(C2C1)C=O | C16H11NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Methyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(3-phenylquinolin-5-yl)-pyridine-5-carboxylate | 0.6 g | CC=1NC(=C(C(C1[N+](=O)[O-])C1=C2C=C(C=NC2=CC=C1)C1=CC=CC=C1)C(=O)OC)C | C24H21N3O4
